### PR TITLE
[Merged by Bors] - feat: Antidiagonal as a `Finset (ι → μ)`

### PR DESCRIPTION
**Pull request by YaelDillies**
---

- [x] depends on: #13153
- [x] depends on: #13725
- [x] depends on: #13726
- [x] depends on: #13727

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Archive/Wiedijk100Theorems/Partition.lean [hunk 1]
```diff
@@ -202,22 +202,19 @@ theorem partialGF_prop (α : Type*) [CommSemiring α] (n : ℕ) (s : Finset ℕ)
...
+    refine ⟨⟨?_, fun i ↦ ?_⟩, fun i _ ↦ ⟨a.parts.count i, ha.1 i, rfl⟩⟩
     · conv_rhs => simp [← a.parts_sum]
       rw [sum_multiset_count_of_subset _ s]
       · simp only [smul_eq_mul]
       · intro i
         simp only [Multiset.mem_toFinset, not_not, mem_filter]
         apply ha.2
-    · exact fun i _ => ⟨Multiset.count i a.parts, ha.1 i, rfl⟩
+    · simp only [ne_eq, Multiset.mem_toFinset, not_not, mem_filter, and_imp]
+      exact fun hi _ => ha.2 i hi
```
Comment (faenuccio) [inline Archive/Wiedijk100Theorems/Partition.lean:217]:
```suggestion
      exact fun hi _ ↦ ha.2 i hi
```

File: Mathlib/Algebra/Order/Antidiag/Finsupp.lean [hunk 2]
```diff
@@ -1,167 +1,82 @@
...
 import Mathlib.Data.Finsupp.Basic
 
 /-!
-# Partial HasAntidiagonal for functions with finite support
+# Antidiagonal of finitely supported functions as finsets
 
-For an `AddCommMonoid` `μ`,
-`Finset.HasAntidiagonal μ` provides a function `antidiagonal : μ → Finset (μ × μ)`
-which maps `n : μ` to a `Finset` of pairs `(a, b)` such that `a + b = n`.
+This file provides the finset of finitely functions summing to a specific value on a finset. Such
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/Antidiag/Finsupp.lean:13]: provides... "the definition and the main properties of", or something like this? Also, can you point to the main declarations of the file?

File: Mathlib/Algebra/Order/Antidiag/Finsupp.lean [hunk 3]
```diff
@@ -1,167 +1,82 @@
...
+finsets should be thought of as the "antidiagonals" in the space of finitely supported functions.
 
-In this file, we provide an analogous definition for `ι →₀ μ`,
-with an explicit finiteness condition on the support,
-assuming `AddCommMonoid μ`, `HasAntidiagonal μ`,
-For computability reasons, we also need `DecidableEq ι` and `DecidableEq μ`.
+Precisely, for a commutative monoid `μ` with antidiagonals, `Finset.finsuppAntidiag s n` is the
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/Antidiag/Finsupp.lean:16]: Can we add a link to the file where the `HasAntidiagonal` class is defined?

File: Mathlib/Algebra/Order/Antidiag/Finsupp.lean [hunk 4]
```diff
@@ -1,167 +1,82 @@
...
-    ← DFunLike.coe_injective.eq_iff, Finsupp.coe_mk, exists_eq_right]
+namespace Finset
+section AddCommMonoid
+variable [DecidableEq ι] [AddCommMonoid μ] [HasAntidiagonal μ] [DecidableEq μ] {s : Finset ι}
+  {n : μ} {f : ι →₀ μ}
 
-lemma mem_finAntidiagonal₀ (d : ℕ) (n : μ) (f : Fin d →₀ μ) :
-    f ∈ finAntidiagonal₀ d n ↔ sum f (fun _ x => x) = n := by
-  rw [mem_finAntidiagonal₀', sum_of_support_subset f (subset_univ _) _ (fun _ _ => rfl)]
+/-- The finset of functions `ι →₀ μ` with support contained in `s` and sum `n`. -/
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/Antidiag/Finsupp.lean:32]:
```suggestion
/-- The finset of functions `ι →₀ μ` with support contained in `s` and sum equal to `n`. -/
```

File: Mathlib/Algebra/Order/Antidiag/Finsupp.lean [hunk 5]
```diff
@@ -1,167 +1,82 @@
...
+lemma mem_finsuppAntidiag' :
+    f ∈ finsuppAntidiag s n ↔ f.sum (fun _ x ↦ x) = n ∧ f.support ⊆ s := by
+  simp only [mem_finsuppAntidiag, and_congr_left_iff]
+  rintro hf
+  rw [sum_of_support_subset (N := μ) f hf (fun _ x ↦ x) fun _ _ ↦ rfl]
 
-variable [DecidableEq ι]
-variable [AddCommMonoid μ] [HasAntidiagonal μ] [DecidableEq μ]
+@[simp] lemma finsuppAntidiag_empty_zero : finsuppAntidiag (∅ : Finset ι) (0 : μ) = {0} := by
+  ext f; simp [finsuppAntidiag, ← DFunLike.coe_fn_eq (g := f), -mem_piAntidiag, eq_comm]
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/Antidiag/Finsupp.lean:47]:
```suggestion
  ext f; simp [finsuppAntidiag, ← DFunLike.coe_fn_eq (g := f), eq_comm]
```
Or is a precise reason to explicitely remove `mem_piAntidiag`?

File: Mathlib/Algebra/Order/Antidiag/Finsupp.lean [hunk 6]
```diff
@@ -1,167 +1,82 @@
...
-end finsuppAntidiag
-
-section
-
-variable [DecidableEq ι]
-variable [AddCommMonoid μ] [HasAntidiagonal μ] [DecidableEq μ]
-variable [AddCommMonoid μ'] [HasAntidiagonal μ'] [DecidableEq μ']
+@[simp] lemma finsuppAntidiag_empty_of_ne_zero (hn : n ≠ 0) :
+    finsuppAntidiag (∅ : Finset ι) n = ∅ :=
+  eq_empty_of_forall_not_mem fun x ↦ by simp [@eq_comm _ 0, hn.symm]
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/Antidiag/Finsupp.lean:51]:
```suggestion
  eq_empty_of_forall_not_mem (by simp [@eq_comm _ 0, hn.symm])
```

File: Mathlib/Algebra/Order/Antidiag/Pi.lean [hunk 7]
```diff
@@ -1,17 +1,28 @@
...
+import Mathlib.Data.Finset.Pointwise
+import Mathlib.Data.Fin.Tuple.NatAntidiagonal
 
 /-!
 # Antidiagonal of functions as finsets
 
 This file provides the finset of functions summing to a specific value on a finset. Such finsets
 should be thought of as the "antidiagonals" in the space of functions.
 
+Precisely, for a commutative monoid `μ` with antidiagonals, `Finset.piAntidiag s n` is the finset of
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/Antidiag/Pi.lean:17]: As in the other file, can you point to the main results, or main API things that a user might want to use when stumbling upon this file? And add a link to the definition of the `HasAntidiagonal` class?

File: Mathlib/Algebra/Order/Antidiag/Pi.lean [hunk 8]
```diff
@@ -74,5 +85,150 @@ where
 @[simp] lemma mem_finAntidiagonal {d : ℕ} {f : Fin d → μ} :
     f ∈ finAntidiagonal d n ↔ ∑ i, f i = n := (finAntidiagonal.aux d n).prop f
 
+/-!
+### `ι → μ`
+
+In this section, we transfer the antidiagonals in `Fin s.card → μ` to antidiagonals in `ι → s` by
+choosing an identification `s ≃ Fin s.card` and proving the end result does not depend on that
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/Antidiag/Pi.lean:92]:
```suggestion
choosing an identification `s ≃ Fin s.card` and proving that the end result does not depend on that
```
Also, can you say which is this result, and add to it (below) a bit of doc along the lines "this lemma/thm proves that ..."?

File: Mathlib/Algebra/Order/Antidiag/Pi.lean [hunk 9]
```diff
@@ -74,5 +85,150 @@ where
...
+  · rintro ⟨rfl, hf⟩
+    refine ⟨f ∘ (↑) ∘ e.symm, ?_, by ext i; have := not_imp_comm.1 (hf i); aesop⟩
+    rw [← sum_attach s]
+    exact Fintype.sum_equiv e.symm _ _ (by simp)
+
+@[simp] lemma piAntidiag_empty_zero : piAntidiag (∅ : Finset ι) (0 : μ) = {0} := by
+  ext; simp [Fintype.sum_eq_zero_iff_of_nonneg, funext_iff, not_imp_comm, ← forall_and]
+
+@[simp] lemma piAntidiag_empty_of_ne_zero (hn : n ≠ 0) : piAntidiag (∅ : Finset ι) n = ∅ :=
+  eq_empty_of_forall_not_mem fun x ↦ by simp [@eq_comm _ 0, hn.symm]
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/Antidiag/Pi.lean:129]:
```suggestion
  eq_empty_of_forall_not_mem (by simp [@eq_comm _ 0, hn.symm])
```

File: Mathlib/Algebra/Order/Antidiag/Pi.lean [hunk 10]
```diff
@@ -74,5 +85,150 @@ where
...
+    exact ⟨Fintype.sum_equiv e _ _ (by simp), by simp (config := { contextual := true })⟩
+  · rintro ⟨rfl, hf⟩
+    refine ⟨f ∘ (↑) ∘ e.symm, ?_, by ext i; have := not_imp_comm.1 (hf i); aesop⟩
+    rw [← sum_attach s]
+    exact Fintype.sum_equiv e.symm _ _ (by simp)
+
+@[simp] lemma piAntidiag_empty_zero : piAntidiag (∅ : Finset ι) (0 : μ) = {0} := by
+  ext; simp [Fintype.sum_eq_zero_iff_of_nonneg, funext_iff, not_imp_comm, ← forall_and]
+
+@[simp] lemma piAntidiag_empty_of_ne_zero (hn : n ≠ 0) : piAntidiag (∅ : Finset ι) n = ∅ :=
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/Antidiag/Pi.lean:128]: I am not sure what to suggest about the "of_ne_zero" vs "ne_zero", but I observe that in the previous lemma there is no `of` and here yes; I believe they should be uniform.

File: Mathlib/Algebra/Order/Antidiag/Pi.lean [hunk 11]
```diff
@@ -74,5 +85,150 @@ where
...
+  eq_empty_of_forall_not_mem fun x ↦ by simp [@eq_comm _ 0, hn.symm]
+
+lemma piAntidiag_empty (n : μ) : piAntidiag (∅ : Finset ι) n = if n = 0 then {0} else ∅ := by
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/Antidiag/Pi.lean:131]: Is there any of all these lemma that might/should be marked `aesop`?

File: Mathlib/Algebra/Order/Antidiag/Pi.lean [hunk 12]
```diff
@@ -74,5 +85,150 @@ where
...
+  split_ifs with hn <;> simp [*]
+
+lemma piAntidiag_equiv_antidiag (n : μ) :
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/Antidiag/Pi.lean:134]: `equiv` or `eq`?

File: Mathlib/Algebra/Order/Antidiag/Pi.lean [hunk 13]
```diff
@@ -74,5 +85,150 @@ where
...
+    piAntidiag (insert i s) n = (antidiagonal n).biUnion fun p : μ × μ ↦ (piAntidiag s p.snd).image
+      (fun f j ↦ f j + if j = i then p.fst else 0) := by
+  simpa [map_eq_image, addRightEmbedding] using piAntidiag_cons hi n
+
+end AddCancelCommMonoid
+
+section CanonicallyOrderedAddCommMonoid
+variable [DecidableEq ι] [CanonicallyOrderedAddCommMonoid μ] [HasAntidiagonal μ] [DecidableEq μ]
+
+@[simp] lemma piAntidiag_zero (s : Finset ι) : piAntidiag s (0 : μ) = {0} := by
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/Antidiag/Pi.lean:182]: See my comment above to see if we need something like `of_zero`.

File: Mathlib/Algebra/Order/Antidiag/Pi.lean [hunk 14]
```diff
@@ -74,5 +85,150 @@ where
...
+  ext; simp [Fintype.sum_eq_zero_iff_of_nonneg, funext_iff, not_imp_comm, ← forall_and]
+
+end CanonicallyOrderedAddCommMonoid
+
+section Nat
+variable [DecidableEq ι]
+
+local infixr:73 "•ℕ" => @SMul.smul _ _ Finset.smulFinset
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/Antidiag/Pi.lean:190]: A bit of doc fot this notation, so users see what it means?

File: Mathlib/Algebra/Order/Antidiag/Pi.lean [hunk 15]
```diff
@@ -74,5 +85,150 @@ where
...
+
+lemma piAntidiag_univ_fin_eq_antidiagonalTuple (n k : ℕ) :
```
Comment (faenuccio) [inline Mathlib/Algebra/Order/Antidiag/Pi.lean:192]: I do not understand how Lean can see that `univ` is the `univ` of `Fintype k`, but it does! Do you have an explanation (and perhaps one that can be put in a bit of doc for other future users)?

**Review by faenuccio — COMMENTED** [review]
Thanks!

File: Mathlib/Algebra/Order/Antidiag/Finsupp.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Antidiag/Finsupp.lean:47]: Oh, it's not needed anymore. Well spotted

File: Mathlib/Algebra/Order/Antidiag/Pi.lean (hunk 10 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Antidiag/Pi.lean:128]: That "discrepancy" is perfectly in line with the naming convention:
* In `piAntidiag_empty_zero : piAntidiag (∅ : Finset ι) (0 : μ) = {0}`, the `0` appears in the LHS, hence there is no `of`
* In `piAntidiag_empty_of_ne_zero (hn : n ≠ 0) : piAntidiag (∅ : Finset ι) n = ∅`, the `n ≠ 0` appears in an hypothesis, hence there is a `of`.

File: Mathlib/Algebra/Order/Antidiag/Pi.lean (hunk 11 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Antidiag/Pi.lean:131]: Highly unclear to me. I would rather not for now, out of lack of application (and since adding aesop rules incurs a cost on every future aesop call). That's easily fixable in a later PR

File: Mathlib/Algebra/Order/Antidiag/Pi.lean (hunk 12 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Antidiag/Pi.lean:134]: I did want to go with `equiv`, but you're right it's a terrible name

File: Mathlib/Algebra/Order/Antidiag/Pi.lean (hunk 15 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Antidiag/Pi.lean:192]: Oh that's simple: We have `Finset.Nat.antidiagonalTuple (k : ℕ) (n : ℕ) : Finset (Fin k → ℕ)`, so the RHS here has type `Finset (Fin k → ℕ)` and Lean easily unifies that with `Finset (α → ℕ)`.

File: Mathlib/Algebra/Order/Antidiag/Pi.lean (hunk 13 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Antidiag/Pi.lean:182]: Same reply as above

**Comment by faenuccio** [comment]
Thanks, LGTM!

**Comment by faenuccio** [comment]
maintainer merge

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
